US05817678
Step B: Preparation of 1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylic acid
Ethyl 1-[2-(2-pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylate (0.187 g, 0.527 mmol) was dissolved in EtOH (5 mL), 1N NaOH (0.791 mL, 0.791 mmol) and H2O (5 mL) added, and the reaction mixture heated at reflux for 3 hr. Neutralization with 1N HCl (to a pH of 6) and concentration to dryness gave the title compound which was used without further purification.

reactant | Ethyl 1-[2-(2-pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylate | 0.527 mmol, 0.187 g | N1=C(C=CC=C1)C(CN1C[C@H](CCC1)C(=O)OCC)(O)C1=CC=CC=C1 | C21H26N2O3
reactant | NaOH | 0.791 mmol, 1N, 0.791 mL | [OH-].[Na+]
reactant | H2O | 5 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylic acid | N1=C(C=CC=C1)C(CN1C[C@H](CCC1)C(=O)O)(O)C1=CC=CC=C1 | C19H22N2O3
